US06642226B2
Rac-cis-2-{4-[1-(3,5-Bis-trifluoromethyl-benzoyl)-3-phenyl-piperidin-4-yl]-piperazin-1-yl}-N-(2,6-dimethyl-phenyl)-acetamide
The title compound, MS: m/e=647.2 (M+H+), was prepared in accordance with the general method of example 35 from rac-cis-(3,5-bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone and N-chloroacetyl-2,6-dimethylaniline.

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=CC=C1)(F)F | C24H25F6N3O
reactant | N-chloroacetyl-2,6-dimethylaniline | ClCC(=O)NC1=C(C=CC=C1C)C | C10H12ClNO
product | Rac-cis-2-{4-[1-(3,5-Bis-trifluoromethyl-benzoyl)-3-phenyl-piperidin-4-yl]-piperazin-1-yl}-N-(2,6-dimethyl-phenyl)-acetamide | FC(C=1C=C(C(=O)N2C[C@H]([C@H](CC2)N2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C34H36F6N4O2
